US04956359
N-(Cyclopropylmethyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 2.6 g (0.024 mole) of (aminomethyl) cyclopropane hydrochloride in 50 ml of pyridine was stirred under a blanket of nitrogen while 3.9 g (0.024 mole) of 1,1'-carbonyldiimidazole was added. After stirring for 45 minutes, the TLC (5% methanol/methylene chloride on silica gel) showed no reaction; therefore, 2 ml of triethylamine was added. The reaction mixture after 10 minutes became cloudy and the TLC showed a new product. The reaction was treated with 6.2 g (0.02 mole) of 3-(3-(trifluoromethyl)phenoxy]azetidine oxalate. After stirring for 1 hr, a sample was removed, and upon dilution with water, a solid precipitated. The CI mass spectrum indicated it was product. After 2 days, the reaction was diluted with 5 volumes of water and the resulting precipitate collected by filtration to yield 6.5 g of pale yellow crystalline product. Recrystallization from ethanol/water produced white plate-like crystals which were dried at 82° C. for 3 hr in a drying pistol under vacuum; weight of the product was 5.8 g (92%), m.p. 132°-133° C.

reactant | (aminomethyl) cyclopropane hydrochloride | 0.024 mole, 2.6 g | Cl.NCC1CC1
reactant | 1,1'-carbonyldiimidazole | 0.024 mole, 3.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanol methylene chloride | CO.C(Cl)Cl
reactant | 3-(3-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C=1C=C(OC2CNC2)C=CC1)(F)F
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | N-(Cyclopropylmethyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 6.5 g | C1(CC1)CNC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C15H17F3N2O2
